US06727264B1
N-(3-{1-[3-(2-BROMOPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-bromo-2-(3-chloropropoxy)benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: 1H NMR (400 MHz, CDCl3) δ 7.53 (dd, 1H, J=1.6, 7.9 Hz), 7.48 (s, 1H), 7.32 (m, 1H), 7.28-7.22 (m, 3H), 7.17 (s, 1H), 6.98 (d, 1H, J=7.7 Hz), 6.93 (dd, 1H, J=1.4, 8.4 Hz), 6.82 (dt, 1H, J=7.6, 1.4 Hz), 4.11 (t, 2H, J=6.3 Hz), 3.07 (d, 2H, J=11.3 Hz), 2.61 (t, 2H, J=6.9 Hz), 2.50 (m, 3H), 2.07 (m, 1H), 1.8-1.75 (m, 5H), 1.25 (d, 6H, J=6.7 Hz); Anal. Calcd for C24H31BrN2O2.HCl+0.2CHCl3: C, 55.9; H, 6.24; N, 5.39. Found: C, 55.8; H, 6.23; N, 5.47; ESMS m/e: 459.1 (M+H)+.

reactant | 1-bromo-2-(3-chloropropoxy)benzene | BrC1=C(C=CC=C1)OCCCCl | C9H10BrClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(2-BROMOPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=C(OCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC=C1 | C24H31BrN2O2
